US04568666
(d) N-(Tertiarybutoxycarbonyl)-O-cyclopentyl-L-tyrosine
To a cold (10°) stirred solution of N-tertiarybutoxycarbonyl-L-tyrosine (11.25 g, 40 mM) in dry DMF (150 ml) under argon was added sodium hydride (2.76 g, 80% dispersion in oil, 92 mM). After one hour at 10° cyclopentyl bromide (5.96 g, 40 mM) was added and the reaction was allowed to warm and stir to room temperature overnight. Water (200 ml) and dichloromethane (300 ml) were then added and the aqueous layer was separated. The separated aqueous layer was washed with dichloromethane, acidified with hydrochloric acid and re-extracted with dichloromethane (300 ml×2). These latter dichloromethane extracts were dried and concentrated in vacuo to an oil. Column chromatography of this material on silica eluting with ethyl acetate gave the title compound as a foam (7.05 g). This was used directly in the next step without further purification.

reactant | N-tertiarybutoxycarbonyl-L-tyrosine | 40 mM, 11.25 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C14H19NO5
reactant | sodium hydride | 92 mM, 2.76 g | [H-].[Na+]
reactant | cyclopentyl bromide | 40 mM, 5.96 g | C1(CCCC1)Br | C5H9Br
reactant | Water | 200 ml | O | H2O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | N-(Tertiarybutoxycarbonyl)-O-cyclopentyl-L-tyrosine | 7.05 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OC1CCCC1)C(=O)O | C19H27NO5
